US09233979B2
(E)-2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N,N-dimethylethenamine (2.2 g, 3.73 mmol) and benzylamine (1.02 g, 7.46 mmol) were stirred in a 3:1:1 solution of DCE:AcOH:EtOH (10 ml) at 85° C. for 3 hrs. Solvent removed by vacuum and residue taken in DCE (15 ml), added sodium triacetoxyborohydride (3.16 g, 14.9 mmol), acetic acid (0.9 g, 14.9 mmol) and stirred at room temperature for 6 hours. Reaction was partitioned between DCM and aqueous sodium bicarbonate and the organics was separated, washed with brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-10% MeOH-EtOAc) gave 2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N-(4-methoxybenzyl)ethanamine MS ESI calc'd. for C34H28ClIN4 [M+H]+ 685. found 685.

reactant | (E)-2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N,N-dimethylethenamine | 3.73 mmol, 2.2 g | ClC1=CC2=C(C(=N1)/C=C/N(C)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C29H24ClIN4
reactant | benzylamine | 7.46 mmol, 1.02 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 14.9 mmol, 3.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | DCE | ClCCCl | C2H4Cl2
solvent | acetic acid | 14.9 mmol, 0.9 g | C(C)(=O)O | C2H4O2
product | 2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)-N-(4-methoxybenzyl)ethanamine | ClC1=CC2=C(C(=N1)CCNCC1=CC=C(C=C1)OC)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C35H30ClIN4O
